US04175190
A suspension of 7.5 g. of dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide in 35 ml. of methylene chloride is treated with 14.5 ml. of piperidine and the mixture is stirred at room temperature under an argon atmosphere for 18 hours. The white precipitate formed is filtered off and recrystallized from a mixture of methylene chloride and methanol, there being obtained pure dimethyl 6-piperidino-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 202° C. (decomposition).

reactant | dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide | ClC1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C8H9ClN4O5
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | dimethyl 6-piperidino-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCCCC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H19N5O5
